US04503061
1,2-Dihydro-6-methyl-2-oxo-5-[4-(4-phenyl-1-piperidinyl)phenyl]-3-pyridinecarboxamide
A mixture of 2.6 g of 4-(dimethylamino)-3-[4-(4-phenyl-1-piperidinyl)phenyl]-3-buten-2-one, a mixture of 0.75 g of cyanoacetamide, 0.8 ml of piperidine acetate in 25 ml of acetonitrile is refluxed for 24 hours. The solid is collected, washed with CH3CN7 ether, and dried to give 0.80 g beige solid, mp 335°-338° C. (d).

reactant | 4-(dimethylamino)-3-[4-(4-phenyl-1-piperidinyl)phenyl]-3-buten-2-one | 2.6 g | CN(C=C(C(C)=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1)C | C23H28N2O
reactant | cyanoacetamide | 0.75 g | C(#N)CC(=O)N | C3H4N2O
reactant | piperidine acetate | 0.8 ml | C(C)(=O)O.N1CCCCC1
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1,2-Dihydro-6-methyl-2-oxo-5-[4-(4-phenyl-1-piperidinyl)phenyl]-3-pyridinecarboxamide | 0.80 g | CC1=C(C=C(C(N1)=O)C(=O)N)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C24H25N3O2
